US07674807B2
2-(Trifluoroacetyl)-1H-pyrrole (0.97 g) was added to DMF solution (10 ml) of 60% sodium hydride (0.16 g) and the mixture was stirred at room temperature for 30 minutes. 3-Methyl-4-nitrobenzyl chloride (1.0 g) was added thereto and the mixture was stirred at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with magnesium sulfate, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrobenzyl)-2-(trifluoroacetyl)-1H-pyrrole (1.53 g).

reactant | 2-(Trifluoroacetyl)-1H-pyrrole | 0.97 g | FC(C(=O)C=1NC=CC1)(F)F | C6H4F3NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 3-Methyl-4-nitrobenzyl chloride | 1.0 g | CC=1C=C(CCl)C=CC1[N+](=O)[O-] | C8H8ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-methyl-4-nitrobenzyl)-2-(trifluoroacetyl)-1H-pyrrole | 1.53 g | CC=1C=C(CN2C(=CC=C2)C(C(F)(F)F)=O)C=CC1[N+](=O)[O-] | C14H11F3N2O3
